US09315521B2
To a mixture of crude 4-(bromomethyl)-3-chloro-5-ethylpyridine (2.5 g, 10.66 mmol), 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol (1.35 g, 6.92 mmol) in anhydrous ethanol (50 mL) at 0° C. was added triethylamine (3.77 g, 37.31 mmol). The reaction mixture was allowed to stir overnight at room temperature. The solvent was evaporated to provide a crude residue. Ether was added to precipitate the triethylamine hydrochloride salt. The solid was filtered and washed with ether several times. The combined ether layers were evaporated to provide a crude residue, which was purified by Combiflash using 0-10% MeOH in dichloromethane to provide 2-{[(3-chloro-5-ethylpyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol as a white solid (1.5 g, 40% yield); 1H NMR (400 MHz, CDCl3): δ 1.17 (t, 3H), 2.24 (s, 3H), 2.84 (q, 2H), 4.65 (s, 2H), 6.72 (s, 1H), 8.41 (s, 1H), 8.50 (s, 1H); M+350.1

reactant | 4-(bromomethyl)-3-chloro-5-ethylpyridine | 10.66 mmol, 2.5 g | BrCC1=C(C=NC=C1CC)Cl | C8H9BrClN
reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | 6.92 mmol, 1.35 g | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | triethylamine | 37.31 mmol, 3.77 g | C(C)N(CC)CC | C6H15N
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-{[(3-chloro-5-ethylpyridin-4-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 1.5 g, 40% yield | ClC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C(F)(F)F)CC | C13H11ClF3N3OS
